US03974277
Anthranilamide hydrochloride was prepared by adding 20 ml of concentrated hydrochloric acid (37% by weight) to a solution of 27.3 g of anthranilamide in 200 ml of methanol. This mixture was cooled in an ice bath to precipitate the hydrochloride which was then collected and dried to obtain a product melting at 234°C with decomposition. A 17.4 g (0.1 mole) portion of the hydrochloride obtained above was refluxed for 3 hours with 100 ml acetic anhydride and allows to stand overnight. The mixture was then cooled in an ice bath and the solids collected by filtration on a Buchner funnel. The filter cake was slurried in 100 ml of water, and warmed to aid solution and then 28% aqueous ammonia was added until the mixture was alkaline. After cooling the 2-methyl-4-(3H)quinazolinone precipitated as a solid, was then collected, washed with a small amount of cold water and dried at 70°C to obtain 6.72 g of the desired product. The 2-methyl-4-(3 H)quinazolinone melted at 236°-8°C and was obtained in a 42% yield.

reactant | hydrochloric acid | 20 ml | Cl | ClH
reactant | anthranilamide | 27.3 g | C(C=1C(N)=CC=CC1)(=O)N | C7H8N2O
solvent | methanol | 200 ml | CO | CH4O
product | Anthranilamide hydrochloride | Cl.C(C=1C(N)=CC=CC1)(=O)N | InChI=1S/C7H8N2O.ClH/c8-6-4-2-1-3-5(6)7(9)10;/h1-4H,8H2,(H2,9,10);1H
